US06881733B1
5-nitro-7-bromobenzofuran-2-carboxylic acid
A mixture of 11.5 gm (35.5 mMol) potassium 5-nitro-7-bromobenzofuran-2-carboxylate and 36 gm Dowex 50WX8-200 resin in 1.6 L methanol was stirred for 1 hour at room temperature. The mixture was filtered and the filtrate concentrated under reduced pressure. The residue was diluted with about 80 mL of methanol and heated on the steam bath with stirring. The mixture was cooled to room temperature and filtered. The residual solid was dried under vacuum to provide 6.7 gm (66%) of the desired compound as a gold solid.

reactant | potassium 5-nitro-7-bromobenzofuran-2-carboxylate | 35.5 mMol, 11.5 gm | [N+](=O)([O-])C=1C=C(C2=C(C=C(O2)C(=O)[O-])C1)Br.[K+]
solvent | methanol | 1.6 L | CO | CH4O
product | 5-nitro-7-bromobenzofuran-2-carboxylic acid | 6.7 gm, 66% | [N+](=O)([O-])C=1C=C(C2=C(C=C(O2)C(=O)O)C1)Br | C9H4BrNO5
